US06743785B2
N-[tert-butoxycarbonyl]N-allyl N-[(1H-indol-7-yl)methyl]amine
To a 0° C. solution of N-allyl N-[(1H-indol-7-yl)methyl]amine (4.21 g, 22.6 mmol) in anhydrous tetrahydrofuran (100 mL) was added a 0° C. solution of di-tert-butyl dicarbonate (4.93 g, 22.6 mmol) in anhydrous tetrahydrofuran (20 mL). The resulting solution was stirred for two hours and allowed to warm to 20-24° C. The reaction mixture was diluted with ethyl acetate (500 mL). The phases were separated and the organic layer was washed with water (2×150 mL), saturated aqueous sodium chloride (100 mL), dried over sodium sulfate, filtered and concentrated under reduced pressure to provide 6.5 g (100%) of the desired compound as a light yellow oil.

reactant | N-allyl N-[(1H-indol-7-yl)methyl]amine | 22.6 mmol, 4.21 g | C(C=C)NCC=1C=CC=C2C=CNC12 | C12H14N2
reactant | di-tert-butyl dicarbonate | 22.6 mmol, 4.93 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | N-[tert-butoxycarbonyl]N-allyl N-[(1H-indol-7-yl)methyl]amine | 6.5 g, 100% | C(C)(C)(C)OC(=O)N(CC=1C=CC=C2C=CNC12)CC=C | C17H22N2O2
